US08134013B2
3-[2-Chloro-5-(2-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidene}hydrazinecarbothioamido)benzoylamino]propionic acid
Ethyl 3-(5-amino-2-chlorobenzoylamino)propionate (122.8 mg, 0.45 mmol) was stirred with a dimethylformamide solution of thiocarbonyldiimidazole (0.1 M, 4.5 mL) at room temperature for 1 hour and with a dimethylformamide solution of 3-(1-hydrazonoethyl)-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-ol prepared in Reference Synthetic Example 14 (0.1 M, 3.0 mL) at room temperature for 6 hours. Water (3.0 mL) was added, and the precipitated solid was removed by filtration. The filtrate was separated by thin layer chromatography to give 57.0 mg of a crude product. An ethanol solution (1.0 mL) of the crude product (26.0 mg, 0.0435 mmol) was stirred with 1 M aqueous sodium hydroxide (131 μL, 0.131 mmol), and the precipitated solid was collected by filtration, washed with water and dried to give 14.6 mg of the desired product (yield 20%).

reactant | Ethyl 3-(5-amino-2-chlorobenzoylamino)propionate | 0.45 mmol, 122.8 mg | NC=1C=CC(=C(C(=O)NCCC(=O)OCC)C1)Cl | C12H15ClN2O3
reactant | thiocarbonyldiimidazole | 0.1 M, 4.5 mL | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 3-(1-hydrazonoethyl)-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-ol | N(N)=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C13H13F3N4O
reactant | sodium hydroxide | 0.131 mmol, 1 M, 131 μL | [OH-].[Na+]
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | Water | 3.0 mL | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[2-Chloro-5-(2-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidene}hydrazinecarbothioamido)benzoylamino]propionic acid | 14.6 mg, yield 20% | ClC1=C(C(=O)NCCC(=O)O)C=C(C=C1)NC(=S)NN=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C24H22ClF3N6O4S
